US08071581B2
Compound 45: 3-(3H-Benzoimidazol-5-ylmethyl)-6-phenyl-[1,2,4]triazolo[4,3-b]pyridazine
A suspension of 4-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-benzene-1,2-diamine (20 mg, 0.063 mmol) in formic acid (0.5 mL) was stirred at 100° C. for 5 h. The reaction mixture was cooled to room temperature and filtered through a 0.45 micron filter. The filtrate was concentrated in vacuo. The residue was purified by preparative HPLC on Xbridge prep C18 column (5 microns, 19×150 mm) using a formic acid buffered gradient of acetonitrile in water to return the title compound as an off-white solid (15 mg, 0.046 mmol, 73% yield). Analytical data presented in Table 1.

reactant | 4-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-benzene-1,2-diamine | 0.063 mmol, 20 mg | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C(C(=CC2)N)N | C18H16N6
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
product | 3-(3H-Benzoimidazol-5-ylmethyl)-6-phenyl-[1,2,4]triazolo[4,3-b]pyridazine | 0.046 mmol, 15 mg, 73% yield | N1=CNC2=C1C=CC(=C2)CC2=NN=C1N2N=C(C=C1)C1=CC=CC=C1 | C19H14N6
